US07576115B2
Synthesis of (4-ethylphenyl)(oxo)acetaldehyde
4-Ethylacetophenone (26.72 mmol, 4 mL) was dissolved in dimethyl sulfoxide (27 mL), and 48% hydrobromic acid (11 mL) was gradually added at room temperature. After overnight stirring at 70° C., the reactor was cooled to room temperature. The reaction solution was poured into water (50 mL) and stirred for about 1 hour. The precipitated solid was recovered by filtration, washed with water and dried by means of a vacuum pump to give the desired product as a white solid (2.44 g, yield 56%).

reactant | 4-Ethylacetophenone | 26.72 mmol, 4 mL | CCC1=CC=C(C=C1)C(=O)C | C10H12O
reactant | hydrobromic acid | 11 mL | Br | BrH
reactant | water | 50 mL | O | H2O
solvent | dimethyl sulfoxide | 27 mL | CS(=O)C | C2H6OS
product | (4-ethylphenyl)(oxo)acetaldehyde | 2.44 g, yield 56% | C(C)C1=CC=C(C=C1)C(C=O)=O | C10H10O2
